US08017611B2
7N Hydrogen chloride in propanol-2 (1083 μl) was added to tert-butyl 4-[4-[6-amino-5-[7-(hydroxymethyl)-1,3-benzoxazol-2-yl]-3-pyridyl]pyrazol-1-yl]piperidine-1-carboxylate (93 mg). The mixture was heated at 78° C. for 1 hour. The solvent was evaporated under reduced pressure. A solution of 7N methanolic ammonia was added to the mixture at 0° C. The mixture was adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 2 to 10% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness to afford [2-[2-amino-5-[1-(4-piperidyl)pyrazol-4-yl]-3-pyridyl]-1,3-benzoxazol-7-yl]methanol (46.0 mg) as a pale yellow solid. NMR Spectrum: (DMSOd6) 2.04-2.17 (m, 2H), 2.17-2.28 (m, 2H), 2.94-3.08 (m, 2H), 3.33-3.39 (m, 2H), 4.42-4.51 (m, 1H), 4.92 (d, 2H), 5.51 (t, 1H), 7.41 (dd, 1H), 7.46 (d, 1H), 7.65 (bs, 2H), 7.72 (d, 1H), 7.99 (s, 1H), 8.29 (s, 1H), 8.47 (d, 1H), 8.54 (d, 1H); Mass spectrum: M+H+ 391.

reactant | Hydrogen chloride | 7N | Cl | ClH
reactant | tert-butyl 4-[4-[6-amino-5-[7-(hydroxymethyl)-1,3-benzoxazol-2-yl]-3-pyridyl]pyrazol-1-yl]piperidine-1-carboxylate | 93 mg | NC1=C(C=C(C=N1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C=1OC2=C(N1)C=CC=C2CO | C26H30N6O4
solvent | propanol-2 | 1083 μl | CC(C)O | C3H8O
product | [2-[2-amino-5-[1-(4-piperidyl)pyrazol-4-yl]-3-pyridyl]-1,3-benzoxazol-7-yl]methanol | 46.0 mg | NC1=NC=C(C=C1C=1OC2=C(N1)C=CC=C2CO)C=2C=NN(C2)C2CCNCC2 | C21H22N6O2
